US06156801
To a solution of 4-chloro-3-nitrophenol (5.00 g, 29 mmol) in N,N-dimethylformamide (100 ml) were added N-(3-bromopropyl)phthalimide (9.27 g, 35 mmol) and potassium carbonate (4.93 g, 36 mmol), followed by stirring at 60° C. for 6 hours. After allowing to stand overnight, the reaction solution was poured into water, and the insoluble matter was collected by filtration and washed with ethyl acetate and dried under reduced pressure to give N-[3-(4-chloro-3-nitrophenoxy)-propyl]phthalimide (7.78 g).

reactant | 4-chloro-3-nitrophenol | 29 mmol, 5.00 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | N-(3-bromopropyl)phthalimide | 35 mmol, 9.27 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 36 mmol, 4.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[3-(4-chloro-3-nitrophenoxy)-propyl]phthalimide | 7.78 g | ClC1=C(C=C(OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1)[N+](=O)[O-] | C17H13ClN2O5
